US07105507B2
N-[(1,1-Dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine
Aqueous sodium hydroxide (4M, 5 mL) was added to a solution of N-[(1,1-dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine methyl ester (Description 158, 2.0 g, 8.2 mmol) in methanol (10 mL) and the mixture was stirred at room temperature for 40 hours. The solvent was evaporated under reduced pressure, hydrochloric acid (2M, 20 mL) was added and the mixture was extracted with dichloromethane (3×40 mL). The combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless oil (1.6 g, 88%). 1H NMR (400 MHz, CDCl3) δ 1.41 (9H, s), 1.46 (9H, s), and 4.08 (2H, s).

reactant | sodium hydroxide | 4M, 5 mL | [OH-].[Na+]
reactant | N-[(1,1-dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine methyl ester | 8.2 mmol, 2.0 g | COC(CN(C(C)(C)C)C(=O)OC(C)(C)C)=O | C12H23NO4
solvent | methanol | 10 mL | CO | CH4O
product | N-[(1,1-Dimethylethoxy)carbonyl]-N-(1,1-dimethylethyl)glycine | 1.6 g, 88% | CC(C)(OC(=O)N(CC(=O)O)C(C)(C)C)C | C11H21NO4
